US07541374B2
1.28 g of 3-i-propyl-1H-1,2,4-triazole1-ylmethanol was dissolved to 20 ml of dichloromethane, and 2 ml of thionyl chloride was added to the solution, followed by stirring at room temperature for 8 hours. The reaction mixture was concentrated under reduced pressure. Diethylether was added to the residue, as a result, a crystal was formed. The crystal was collected to obtain 1.58 g of 1-(chloromethyl)-3-i-propyl-1H-1,2,4-triazole hydrochloride.

reactant | 3-i-propyl-1H-1,2,4-triazole1-ylmethanol | 1.28 g | C(C)(C)C1=NN(C=N1)CO | C6H11N3O
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-(chloromethyl)-3-i-propyl-1H-1,2,4-triazole hydrochloride | 1.58 g | Cl.ClCN1N=C(N=C1)C(C)C | InChI=1S/C6H10ClN3.ClH/c1-5(2)6-8-4-10(3-7)9-6;/h4-5H,3H2,1-2H3;1H
